US05051424
(E)-1-[[(2-phenoxyphenyl)methoxy]ethyl]-4-(3-phenyl-2-propenyl)piperazine dihydrochloride
7.82 g (3.58 mmol) of o-phenoxybenzyl chloride dissolved in 8 ml of dimethoxyethane were added dropwise at room temperature to a solution of 8.82 g (35.8 mmol) of (E)-4-(3-phenyl-2-propenyl)-1-piperazineethanol and 4.42 g (39.4 mmol) of potassium tert-butyloxide and 4 g of 3A molecular sieve in 125 ml of dry dimethoxyethane. After stirring for 3 days at 40° C., the mixture was cooled to room temperature. The salts in the solution were filtered off and the solution was evaporated. The residue obtained was purified by means of column chromatography over silica (eluent toluene:ethanol=9:1). The collected fractions were dissolved in ethanol and 5 ml of 4.9 N HCl in ethanol was added. The clearsolution was evaporated. Yield 2.4 g (13%), m.p. 221° C.

reactant | o-phenoxybenzyl chloride | 3.58 mmol, 7.82 g | O(C1=CC=CC=C1)C1=C(CCl)C=CC=C1 | C13H11ClO
reactant | (E)-4-(3-phenyl-2-propenyl)-1-piperazineethanol | 35.8 mmol, 8.82 g | C1(=CC=CC=C1)/C=C/CN1CCN(CC1)CCO | C15H22N2O
reactant | potassium tert-butyloxide | 39.4 mmol, 4.42 g | C(C)(C)(C)OC(C)(C)C.[K]
solvent | dimethoxyethane | 8 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 125 ml | C(OC)COC | C4H10O2
product | (E)-1-[[(2-phenoxyphenyl)methoxy]ethyl]-4-(3-phenyl-2-propenyl)piperazine dihydrochloride | Cl.Cl.O(C1=CC=CC=C1)C1=C(C=CC=C1)COCCN1CCN(CC1)C\C=C\C1=CC=CC=C1 | InChI=1S/C28H32N2O2.2ClH/c1-3-10-25(11-4-1)12-9-17-29-18-20-30(21-19-29)22-23-31-24-26-13-7-8-16-28(26)32-27-14-5-2-6-15-27;;/h1-16H,17-24H2;2*1H/b12-9+;;
